US06346622B1
b) 2-(3-Chloroprop-1-yl)-3,3-dimethyl-2,3-dihydro-1,2-benzoisothia-zole 1,1-dioxide
A solution of 5.9 g (3 mmol) of 3,3-dimethyl-2,3-dihydro-1,2-benzoisothiazole 1,1-dioxide in 150 ml of DMF at room temperature was, after addition of 3.7 g (3.3 mmol) of potassium t-butoxide, heated under nitrogen to 80° C. Then 14.2 g (9 mmol) of 1-bromo-3-chloropropane were rapidly added and the mixture was stirred at 100° C. for 30 min. Pouring into ice-water was followed by extraction with ether, and the organic phases were washed with water, dried with sodium sulfate and then evaporated so that the product resulted as crystals which could be filtered off with suction. 6.7 g (82%) of substance were obtained. Melting point 107° C.

reactant | 3,3-dimethyl-2,3-dihydro-1,2-benzoisothiazole 1,1-dioxide | 3 mmol, 5.9 g | CC1(NS(C2=C1C=CC=C2)(=O)=O)C | C9H11NO2S
reactant | potassium t-butoxide | 3.3 mmol, 3.7 g | CC(C)([O-])C.[K+]
reactant | 1-bromo-3-chloropropane | 9 mmol, 14.2 g | BrCCCCl | C3H6BrCl
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 2-(3-Chloroprop-1-yl)-3,3-dimethyl-2,3-dihydro-1,2-benzoisothia-zole 1,1-dioxide | ClCCCN1S(C2=C(C1(C)C)C=CC=C2)(=O)=O | C12H16ClNO2S
